US08058432B2
Step 3: Synthesis of 2-amino-5-(N-tert-butoxycarbonyl-N-methyl-aminomethyl)-benzoic acid
To 80 mL of methanol, there were added 8.3 g of 5-(N-tert-butoxycarbonyl-N-methyl-aminomethyl)-2-nitrobenzoic acid prepared in the foregoing Step 2 and 500 mg of 10% Pd/C (wet product), then hydrogen gas was introduced into the resulting dispersion and the mixture was then stirred at room temperature. After 1.5 hours, additional 500 mg of 10% Pd/C was further added to the mixture and the latter was stirred over 7 hours in a hydrogen gas atmosphere. The catalyst was removed by the filtration through Celite and the Celite was washed with methanol. The filtrate was concentrated to dryness to thus give the title compound.

reactant | 5-(N-tert-butoxycarbonyl-N-methyl-aminomethyl)-2-nitrobenzoic acid | 8.3 g | C(C)(C)(C)OC(=O)N(C)CC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C14H18N2O6
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 500 mg | [Pd] | Pd
catalyst | Pd/C | 500 mg | [Pd] | Pd
solvent | methanol | 80 mL | CO | CH4O
product | 2-amino-5-(N-tert-butoxycarbonyl-N-methyl-aminomethyl)-benzoic acid | NC1=C(C(=O)O)C=C(C=C1)CN(C)C(=O)OC(C)(C)C | C14H20N2O4
